US04263291
2-Methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid (syn isomer)(0.65 g) and 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (0.96 g) were reacted according to similar manners to those of Examples 12 and 15 to give 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer) (0.7 g).

reactant | 2-Methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid | 0.65 g | CON=C(C(=O)O)C=1N=NSC1 | C5H5N3O3S
reactant | 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 0.96 g | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
product | 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 0.7 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C=1N=NSC1 | C14H14N6O7S2
